US07585885B2
(2R,4R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluorobenzyl)-2,2-dimethyloxazolidin-5-yl]-4-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester
To an ice cold solution of (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluorobenzyl)-2,2-dimethyloxazolidin-5-yl]-4-(4-methoxy-benzyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (7.48 g, 13.0 mmol) in 20:1 dichloromethane:water (130 mL) add 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (4.71 g, 20.74 mmol). Stir 4 h in an ice bath and wash with saturated aqueous sodium bicarbonate (3×300 mL), saturated aqueous sodium chloride, dry magnesium sulfate and purify on silica gel with dichloromethane/ethyl acetate mixtures to give the title compound as a foam (5.288 g, 89%).

reactant | (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluorobenzyl)-2,2-dimethyloxazolidin-5-yl]-4-(4-methoxy-benzyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 13.0 mmol, 7.48 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OCC1=CC=C(C=C1)OC)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C31H40F2N2O6
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 20.74 mmol, 4.71 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | water | 130 mL | O | H2O
product | (2R,4R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluorobenzyl)-2,2-dimethyloxazolidin-5-yl]-4-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester | 5.288 g, 89% | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C23H32F2N2O5
